US09079866B2
1-[(2-Bromophenyl)sulfonyl]-4-(1H-imidazol-4-yl)piperidine
To a 20 mL vial containing 1-[(2-bromophenyl)sulfonyl]-4-{1-[(2-bromophenyl)-sulfonyl]-1H-imidazol-4-yl}piperidine (884 mg, 1.50 mmol) were added a stirbar and DMSO (10 mL). Once the DMSO solution was homogeneous, LiOH (3 mL, 1.0 M) was added slowly. After 30 min the reaction mixture was diluted with EtOAc, washed with water (×4) and brine (×1), dried over MgSO4, filtered and concentrated to dryness to give the title compound (522 mg, 94%). MS (ESI): mass calcd. for C14H16BrN3O2S 369.01 m/z found 370.0 [M+H]+; 1H NMR (600 MHz, CDCl3) δ 8.08 (dd, J=7.9, 1.7, 1H), 7.72 (dd, J=7.8, 1.3, 1H), 7.62 (s, 1H), 7.45-7.41 (m, 1H), 7.40-7.35 (m, 1H), 6.76 (s, 1H), 3.88 (d, J=12.8, 1H), 2.90 (m, 2H), 2.76-2.69 (m, 1H), 2.09-2.01 (m, 2H), 1.77-1.67 (m, 2H).

reactant | 1-[(2-bromophenyl)sulfonyl]-4-{1-[(2-bromophenyl)-sulfonyl]-1H-imidazol-4-yl}piperidine | 1.50 mmol, 884 mg | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C=1N=CN(C1)S(=O)(=O)C1=C(C=CC=C1)Br | C20H19Br2N3O4S2
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
reactant | LiOH | 1.0 M, 3 mL | [Li+].[OH-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[(2-Bromophenyl)sulfonyl]-4-(1H-imidazol-4-yl)piperidine | 522 mg, 94% | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C=1N=CNC1 | C14H16BrN3O2S
